US07135472B2
(S)-N-{1-[3-(3-Amino-5-methyl-isoxazol-4-yl)-phenyl]-ethyl}-3-(2-fluoro-phenyl)-acrylamide
The title compound was prepared from 2-fluorocinnamic acid and (S)-4-[3-(1-amino-ethyl)-phenyl]-5-methyl-isoxazol-3-ylamine following the general procedures as described for Example 1.

reactant | 2-fluorocinnamic acid | FC1=C(C=CC(=O)O)C=CC=C1 | C9H7FO2
reactant | (S)-4-[3-(1-amino-ethyl)-phenyl]-5-methyl-isoxazol-3-ylamine | N[C@@H](C)C=1C=C(C=CC1)C=1C(=NOC1C)N | C12H15N3O
product | (S)-N-{1-[3-(3-Amino-5-methyl-isoxazol-4-yl)-phenyl]-ethyl}-3-(2-fluoro-phenyl)-acrylamide | NC1=NOC(=C1C=1C=C(C=CC1)[C@H](C)NC(C=CC1=C(C=CC=C1)F)=O)C | C21H20FN3O2
